US04237305
p-(3-Bromopropoxy)acetophenone (5.14 g.) and potassium phthalimide (3.75 g.) were dissolved in anhydrous N,N-dimethylformamide (50 ml.), and the solution was stirred at 70° C. for 2.5 hours. After the reaction mixture was allowed to cool, water (300 ml.) was poured thereto. The aqueous solution was extracted three times with ethyl acetate, and the extract was washed with ethyl acetate and then dried over magnesium sulfate. The ethyl acetate was removed by evaporation from the solution under reduced pressure, and the resultant residue was treated with ether to give p-(3-phthalimidopropoxy)acetophenone (5.75 g.).

reactant | p-(3-Bromopropoxy)acetophenone | 5.14 g | BrCCCOC1=CC=C(C=C1)C(C)=O | C11H13BrO2
reactant | potassium phthalimide | 3.75 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | p-(3-phthalimidopropoxy)acetophenone | 5.75 g | C1(C=2C(C(N1CCCOC1=CC=C(C=C1)C(C)=O)=O)=CC=CC2)=O | C19H17NO4
